US09079866B2
N-[3′-Fluoro-4′-(5H-pyrrolo[2,3-b]pyrazin-2-yl)biphenyl-2-yl]ethanesulfonamide
The title compound was prepared using methods analogous to those described in Step C of Example 490 using N-(2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethanesulfonamide and 2-(4-bromo-2-fluorophenyl)-5H-pyrrolo[2,3-b]pyrazine. MS (ESI): mass calcd. for C20H17FN4O2S, 396.11; m/z found, 397.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 9.16 (s, 1H), 8.78 (d, J=2.6, 1H), 8.20-8.11 (m, 2H), 7.75-7.66 (m, 2H), 7.47-7.37 (m, 1H), 7.36-7.28 (m, 2H), 7.27-7.20 (m, 1H), 6.87-6.79 (m, 1H), 6.59 (s, 1H), 3.11 (q, J=7.4, 2H), 1.33-1.18 (m, 3H).

reactant | N-(2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethanesulfonamide | CC1(OB(OC1(C)C)C1=C(C=CC=C1)NS(=O)(=O)CC)C | C14H22BNO4S
reactant | 2-(4-bromo-2-fluorophenyl)-5H-pyrrolo[2,3-b]pyrazine | BrC1=CC(=C(C=C1)C=1N=C2C(=NC1)NC=C2)F | C12H7BrFN3
product | N-[3′-Fluoro-4′-(5H-pyrrolo[2,3-b]pyrazin-2-yl)biphenyl-2-yl]ethanesulfonamide | FC=1C=C(C=CC1C=1N=C2C(=NC1)NC=C2)C2=C(C=CC=C2)NS(=O)(=O)CC | C20H17FN4O2S
